US06291523B1
5-Methyl-2-iodobenzoic acid (100 g, 0.38 mol) is dissolved in THF (350 ml) and cooled in an ice bath. Borane-THF complex (380 ml of 1M in THF, 0.38 mol) is added dropwise. After addition is complete, the reaction is warmed to room temperature and stirred for 14 hours. The mixture is transferred to a large erienmeyer flask, cooled in an ice bath, and carefully quenched with water (250 ml). Evaporation of the THF on a rotovap gives a white suspension which is treated with additional water (1 L) and then filtered and dried in a vacuum dessicator over P2O5 to give 2-iodo-5-methylbenzyl alcohol as a white solid, m.p. 82-85°.

reactant | 5-Methyl-2-iodobenzoic acid | 0.38 mol, 100 g | CC=1C=CC(=C(C(=O)O)C1)I | C8H7IO2
reactant | Borane THF | 0.38 mol, 1M, 380 ml | B.C1CCOC1
reactant | water | 1 L | O | H2O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | 2-iodo-5-methylbenzyl alcohol | IC1=C(CO)C=C(C=C1)C | C8H9IO
